US04592866
4-Benzyl-2-[2-(dimethylamino)ethyl]-2,3-dihydro-1,4-benzoxazepin-5(4H)-one monohydrate
Following the procedure of Example 1, 4-benzyl-2-(2-chloroethyl)-2,3-dihydro-1,4-benzoxazepin-5(4H)-one and dimethylamine were reacted and the free base of the title compound was obtained in the concentrated residue. Recrystallization from ethanol-water gave the product, m.p. 75°-77° C.

reactant | 4-benzyl-2-(2-chloroethyl)-2,3-dihydro-1,4-benzoxazepin-5(4H)-one | C(C1=CC=CC=C1)N1CC(OC2=C(C1=O)C=CC=C2)CCCl | C18H18ClNO2
reactant | dimethylamine | CNC | C2H7N
product | 4-Benzyl-2-[2-(dimethylamino)ethyl]-2,3-dihydro-1,4-benzoxazepin-5(4H)-one monohydrate | O.C(C1=CC=CC=C1)N1CC(OC2=C(C1=O)C=CC=C2)CCN(C)C | InChI=1S/C20H24N2O2.H2O/c1-21(2)13-12-17-15-22(14-16-8-4-3-5-9-16)20(23)18-10-6-7-11-19(18)24-17;/h3-11,17H,12-15H2,1-2H3;1H2
